US04843070
Ethyl 7-(4-acetonyl-1-piperazinyl)-6-fluoro-1-methyl-4-oxo-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylate
Ethyl 6-fluoro-1-methyl-7-(1-piperazinyl)-4-oxo-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylate (3.8 g) was suspended in 50 ml of N,N-dimethylformamide, 1.66 g of potassium carbonate was added thereto, 1.65 g of bromoacetone was dropped in with ice cooling and stirring, and the mixture was stirred at room temperature for 20 hours. The reaction solution was poured over into ice water and the crystals separated out were collected by filtration, washed with water, dried and recrystallized from ethanol to give 3.7 g of desired compound in colorless powdery crystals, m.p. 196°-200° C. (decompn.).

reactant | Ethyl 6-fluoro-1-methyl-7-(1-piperazinyl)-4-oxo-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylate | 3.8 g | FC=1C=C2C(C(=C3N(C2=CC1N1CCNCC1)C(S3)C)C(=O)OCC)=O | C18H20FN3O3S
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetone | 1.65 g | BrCC(C)=O | C3H5BrO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 7-(4-acetonyl-1-piperazinyl)-6-fluoro-1-methyl-4-oxo-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylate | 3.7 g | C(C(=O)C)N1CCN(CC1)C1=C(C=C2C(C(=C3N(C2=C1)C(S3)C)C(=O)OCC)=O)F | C21H24FN3O4S
